US05276028
3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-4-(N-ethyl-N-methylamino)-imidazo[1,5-a]quinoxaline
A mixture of ethyl 4-(N-ethyl-N-methylamino)-imidazo[1,5-a]quinoxaline-3-carboxylate (1.2 g, 4 mmol), cyclopropanecarboxamidoxime (1.4 g, 14 mmol), crushed 4 Å molecular-sieves (0.5 g), and sodium hydride (0.1 g, 60% in mineral oil) in dry DMF (20 ml) was stirred at ambient temperature for 1 h. Dichloromethane (25 ml) was added and the mixture was filtered through celite. The filtrate was evaporated and the residue was brought to crystallize by the addition of 10 ml of ethyl acetate and cooling to 0° C. The crystals was collected by filtration, rinsed with ethyl acetate and dried to give 0.58 g of the title compound, m.p. 96°-97° C. An additional amount (0.22 g) of the product was obtained from the mother liquour. (Compound 6).

reactant | ethyl 4-(N-ethyl-N-methylamino)-imidazo[1,5-a]quinoxaline-3-carboxylate | 4 mmol, 1.2 g | C(C)N(C)C=1C=2N(C3=CC=CC=C3N1)C=NC2C(=O)OCC | C16H18N4O2
reactant | cyclopropanecarboxamidoxime | 14 mmol, 1.4 g | C1(CC1)C(N)=NO | C4H8N2O
reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | Dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-4-(N-ethyl-N-methylamino)-imidazo[1,5-a]quinoxaline | 0.58 g | C1(CC1)C1=NOC(=N1)C=1N=CN2C1C(=NC1=CC=CC=C21)N(C)CC | C18H18N6O
